US07015218B1
N-(3-Cyano-4-neopentyloxyphenyl)-1-(4-fluorophenyl)-N,3-dimethylpyrazole-4-carboxamide ½ hydrate
To dimethylformamide (5 ml) solution containing N-(3-cyano-4-neopentyloxyphenyl)-1-(4-fluorophenyl)-3-methylpyrazole-4-carboxamide (1.5 g) was added sodium hydride (60% content, 0.2 g) under ice-cooling and the mixture was stirred for 1 h. A solution of dimethylformamide (1 ml) containing methyl iodide (0.6 g) was added and the mixture was stirred under ice-cooling for 1 h. The mixture was allowed to warm to room temperature and stirred for 1 h. The reaction mixture was added into water and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, after which the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (mobile phase: ethyl acetate:n-hexane=5:1) to give the title compound (0.5 g), melting point: 65–69° C.

reactant | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
reactant | N-(3-cyano-4-neopentyloxyphenyl)-1-(4-fluorophenyl)-3-methylpyrazole-4-carboxamide | 1.5 g | C(#N)C=1C=C(C=CC1OCC(C)(C)C)NC(=O)C=1C(=NN(C1)C1=CC=C(C=C1)F)C | C23H23FN4O2
reactant | sodium hydride | 0.2 g | [H-].[Na+]
reactant | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
reactant | methyl iodide | 0.6 g | CI | CH3I
solvent | water | O | H2O
product | N-(3-Cyano-4-neopentyloxyphenyl)-1-(4-fluorophenyl)-N,3-dimethylpyrazole-4-carboxamide | 0.5 g | C(#N)C=1C=C(C=CC1OCC(C)(C)C)N(C(=O)C=1C(=NN(C1)C1=CC=C(C=C1)F)C)C | C24H25FN4O2
